US09079861B2
To a solution of (S)-methyl 1-(4-bromophenyl)ethyl(3-(4-fluorophenyl)-3-oxopropyl)carbamate (982 mg, 2 mmol) and (S)-2-methylpropane-2-sulfinamide (265 mg, 2 mmol) in anhydrous THF (20 mL) at rt was added Ti(OEt)4 (1 g, 4 mmol). The reaction mixture was heated at 70° C. for 24 h. After cooling to rt, the reaction mixture was poured into brine with vigorous stirring. The resulting suspension was filtered through a pad of celite and the solid was washed with brine. The combined organic phases were dried, filtered and concentrated to give methyl (1S)-1-(4-bromophenyl)ethyl((Z)-3-((S)-tert-butylsulfinylimino)-3-(4-fluorophenyl)propyl)carbamate (794 mg, 65%). 1H NMR (CD3OD): 1.24 (m, 9H), 1.58 (d, 4H), 1.61 (m, 1H), 2.95 (m, 1H), 3.48 (m, 2H), 3.66 (m, 1H), 3.80 (m, 3H), 4.58 (m, 1H), 3.78 (m, 3H), 5.36 (m, 1H), 7.18 (m, 3H), 7.30 (m, 2H), 7.50 (m, 2H), 7.96 (m, 2H).

reactant | (S)-methyl 1-(4-bromophenyl)ethyl(3-(4-fluorophenyl)-3-oxopropyl)carbamate | 2 mmol, 982 mg | BrC1=CC=C(C=C1)[C@H](C)N(C(OC)=O)CCC(=O)C1=CC=C(C=C1)F | C19H19BrFNO3
reactant | (S)-2-methylpropane-2-sulfinamide | 2 mmol, 265 mg | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | methyl (1S)-1-(4-bromophenyl)ethyl((Z)-3-((S)-tert-butylsulfinylimino)-3-(4-fluorophenyl)propyl)carbamate | 794 mg, 65% | BrC1=CC=C(C=C1)[C@H](C)N(C(OC)=O)CC/C(/C1=CC=C(C=C1)F)=N/[S@@](=O)C(C)(C)C | C23H28BrFN2O3S
